US05747486
In substantially the same manner as in Example 2, ethyl 6-chloromethyl-4-(3,4-methylenedioxyphenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate was allowed to react with 1H-1,2,4-triazole to produce ethyl 2,3-dimethyl-4-(3,4-methylenedioxyphenyl)-6-(1,2,4-triazol-1-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate. Recrystallization from ethyl acetate-hexane gave colorless prisms, m.p.109°-110° C.

reactant | ethyl 6-chloromethyl-4-(3,4-methylenedioxyphenyl)-2,3-dimethylthieno[2,3-b]pyridine-5-carboxylate | ClCC1=C(C(=C2C(=N1)SC(=C2C)C)C2=CC1=C(C=C2)OCO1)C(=O)OCC | C20H18ClNO4S
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | ethyl 2,3-dimethyl-4-(3,4-methylenedioxyphenyl)-6-(1,2,4-triazol-1-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate | CC1=C(C=2C(=NC(=C(C2C2=CC3=C(C=C2)OCO3)C(=O)OCC)CN3N=CN=C3)S1)C | C22H20N4O4S
